US08236887B2
Then the entire crude reaction product was poured into water (30 ml), and subjected to extraction with ethyl acetate. After separation of an organic layer, drying with magnesium sulfate was carried out and concentration under reduced pressure was conducted. Then thereto was added 1.46 g (10 mmol) of benzotrifluoride, and it was confirmed by a 19F-NMR analysis based on benzotrifluoride that 1-(1,1,2,2-tetrafluoroethyl)imidazole had been produced at yield of 7% and 1-(1,2,2-trifluoroethenyl)imidazole had been produced at yield of 39%.

reactant | benzotrifluoride | 10 mmol, 1.46 g | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | 1-(1,1,2,2-tetrafluoroethyl)imidazole | FC(C(F)F)(F)N1C=NC=C1 | C5H4F4N2
solvent | water | 30 ml | O | H2O
product | 1-(1,2,2-trifluoroethenyl)imidazole | yield of 7% | FC(=C(F)F)N1C=NC=C1 | C5H3F3N2
